US05350748
A suspension of lithium hydroxide-monohydrate (20 mg, 0.48 mmol) and methyl 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoate (67 mg, 0.16 mmol) in 4 mL of methanol and 2 mL of water is heated at reflux for 1.5 hours. The reaction mixture is cooled to room temperature and then diluted with ethyl acetate and washed sequentially with 1N HCl, water, and brine. The organic layer is dried over MgSO4. Filtration followed by concentration in vacuo and recrystallization from ethyl acetate: hexane gives 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoic acid in 78% yield; mp=241°-245° C. dec.

reactant | lithium hydroxide-monohydrate | 0.48 mmol, 20 mg | O.[OH-].[Li+]
reactant | methyl 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoate | 0.16 mmol, 67 mg | COC1=CC2=C(SC(=C2SC(C)C)C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C21H21NO4S2
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[[5-methoxy-3-[(1-methylethyl)thio]benzo[b]thien-2yl]carbonyl]amino]benzoic acid | 78% yield | COC1=CC2=C(SC(=C2SC(C)C)C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C20H19NO4S2
